US08309724B2
Step D: Preparation of 3-trifluoromethyl-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyrazine hydrochloride (Formula X)
A suspension of N′-((Z)-piperazin-2-ylidene)-trifluoroacetohydrazide (41 g) in methanol (170 mL) is stirred and heated to about 55° C. Hydrogen chloride (21 mL) is added to the reaction mixture and stirred for about 2 hours. The solution is cooled to 20° C. and methyl tert-butyl ether (423 mL) is added to it. The solution is further cooled to 0° C. and stirred for about 1 hour. The solid is filtered, washed with mixture of ethanol and methyl tert-butyl ether (82 mL) and dried at about 45° C. to afford the title compound. (Yield: 90.7%)

reactant | N′-((Z)-piperazin-2-ylidene)-trifluoroacetohydrazide | 41 g | N1\C(\CNCC1)=N/NC(C(F)(F)F)=O | C6H9F3N4O
reactant | Hydrogen chloride | 21 mL | Cl | ClH
reactant | methyl tert-butyl ether | 423 mL | C(C)(C)(C)OC | C5H12O
solvent | methanol | 170 mL | CO | CH4O
product | 3-trifluoromethyl-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyrazine hydrochloride | Yield: 90.7% | Cl.FC(C1=NN=C2N1CCNC2)(F)F | InChI=1S/C6H7F3N4.ClH/c7-6(8,9)5-12-11-4-3-10-1-2-13(4)5;/h10H,1-3H2;1H
